US08247556B2
Preparation CII—2-Oxo-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile
To a stirred solution of 3,3-dibromo-2-oxo-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile (4 g) in CH3CN (75 mL) was added AcOH (2 mL) followed by Zinc dust (4, 63 mmol). Mixture was stirred for 2 h at RT and was filtered. Solvent was evaporated and MeOH was added. A solid precipitated, which was filtered and dried.

reactant | 3,3-dibromo-2-oxo-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile | 4 g | BrC1(C(NC=2N=CC=C(C21)C#N)=O)Br | C8H3Br2N3O
reactant | AcOH | 2 mL | CC(=O)O | C2H4O2
solvent | CH3CN | 75 mL | CC#N | C2H3N
catalyst | Zinc | 63 mmol | [Zn] | Zn
product | 2-Oxo-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-4-carbonitrile | O=C1CC2=C(N=CC=C2C#N)N1 | C8H5N3O
